US07507728B2
d) 9-Bromo-6H-1,3,3a,6-tetraaza-benzo[e]azulen-5-one
A solution of 4-bromo-2-(2H-[1,2,4]triazol-3-yl)-phenylamine (25.0 g, 105 mmol) in dioxane (870 mL) and pyridine (10.0 mL) was cooled to 12° C. A solution of chloroacetyl chloride (9.56 mL, 121 mmol) in diethylether (34.7 mL) was added dropwise over a period of 8 min. The mixture was stirred at 10-12° C. for 75 min and treated within 5 min with aq NaOH (2 N, 126 mL, 251 mmol). The mixture was stirred for 17.5 h at ambient temperature. The pH thereby dropped to about pH=9 and it was adjusted to pH=8 with HCl (3 N, 6 mL). After evaporation the residue was stirred at 15° C. for 30 min in water (650 mL) and ethyl acetate (22 mL). The crystals were filtered off, washed with cold water and dried in vacuo. Trituration in ethyl acetate (100 mL) afforded the title compound (13.4 g, 46%) as a light yellow solid. MS: m/e =279.0/281.0 [M+H+].

reactant | 4-bromo-2-(2H-[1,2,4]triazol-3-yl)-phenylamine | 105 mmol, 25.0 g | BrC1=CC(=C(C=C1)N)C=1NN=CN1 | C8H7BrN4
reactant | chloroacetyl chloride | 121 mmol, 9.56 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | NaOH | 251 mmol, 2 N, 126 mL | [OH-].[Na+]
reactant | HCl | 3 N, 6 mL | Cl | ClH
solvent | dioxane | 870 mL | O1CCOCC1 | C4H8O2
solvent | pyridine | 10.0 mL | N1=CC=CC=C1 | C5H5N
solvent | diethylether | 34.7 mL | C(C)OCC | C4H10O
product | 9-Bromo-6H-1,3,3a,6-tetraaza-benzo[e]azulen-5-one | 13.4 g, 46% | BrC=1C=CC2=C(C3=NC=NN3CC(N2)=O)C1 | C10H7BrN4O
